US05472933
Methyl 2-[[[[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)amino]carbonyl]amino]sulfonyl]-1-methyl-1H-pyrrole-3-carboxylate
Methyl 2-(aminosulfonyl)-1-methyl-1H-pyrrole-3-carboxylate (0.10 g, 0.46 mmol) and 0.13 g (0.50 mmol) of phenyl (4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate were combined in 2 mL of acetonitrile and 0.075 mL of DBU was added and the resulting amber solution was stirred at ambient temperature for 30 min. The reaction mixture was diluted with 15 mL of water and acidified with 0.5 mL 1N HCl and the resulting precipitate was collected by filtration and rinsed successively with water and ether, then dried to afford 0.13 g of the title compound as a white solid, m.p. 189°-190° C. (dec). 1H NMR (Me2SO-d6, 200 MHz.) δ: 12.5 (NH), 11.1 (NH), 7.22 (d,1H), 6.60 (d,1H), 4.01 (s,3H), 3.98 (s,3H), 3.71 (s,3H), 2.49 (s,3H).

reactant | Methyl 2-(aminosulfonyl)-1-methyl-1H-pyrrole-3-carboxylate | 0.46 mmol, 0.10 g | NS(=O)(=O)C=1N(C=CC1C(=O)OC)C | C7H10N2O4S
reactant | phenyl (4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate | 0.50 mmol, 0.13 g | COC1=NC(=NC(=N1)C)NC(OC1=CC=CC=C1)=O | C12H12N4O3
reactant | DBU | 0.075 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1N, 0.5 mL | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
product | Methyl 2-[[[[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)amino]carbonyl]amino]sulfonyl]-1-methyl-1H-pyrrole-3-carboxylate | 0.13 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C=1N(C=CC1C(=O)OC)C | C13H16N6O6S
